US07750154B2
N-Cyclopropyl-4-methyl-3-[6-[2-(1,4-oxazepan-4-yl)ethoxy]-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12272886)
3-[6-(2-Chloroethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide (0.15 g), potassium iodide (0.13 g), 1,4-oxazepane hydrochloride (0.32 g), and N,N-diisopropylethylamine (0.8 ml) were stirred in DMA (3 ml) and heated under microwave irradiation conditions (Personal Chemistry Emrys Optimizer with 300 W magnetron) at 140° C. for 1 hour. The reaction mixture was diluted with ethyl acetate and washed with water (5×), brine (2×), dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 10% methanol/ethyl acetate gave the title compound (0.111 g) as a white solid; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.70 (m, 2H), 1.80 (m, 2H), 2.13 (s, 3H), 2.76 (m, 4), 2.86 (m, 1H), 2.93 (t, 2H), 3.60 (t, 2H), 3.65 (t, 2H), 4.20 (m, 2H), 7.52 (m, 2H), 7.60 (s, 1H), 7.72 (d, 1H), 7.83 (s, 1H), 7.91 (d, 1H), 8.19 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 463.

reactant | 3-[6-(2-Chloroethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide | 0.15 g | ClCCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C21H20ClN3O3
reactant | potassium iodide | 0.13 g | [I-].[K+]
reactant | 1,4-oxazepane hydrochloride | 0.32 g | Cl.O1CCNCCC1
reactant | N,N-diisopropylethylamine | 0.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMA | 3 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[6-[2-(1,4-oxazepan-4-yl)ethoxy]-4-oxoquinazolin-3(4H)-yl]benzamide | 0.111 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCCN1CCOCCC1)=O | C26H30N4O4
